US07723333B2
2-tert-Butyl-4-({3-[4-(hydroxymethyl)phenoxy]propyl}amino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 12 from 4-(hydroxymethyl)phenol and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate. Purified by silica gel column chromatography (Horizons Biotage) using 0-10% EtOAc in DCM as eluent to give the title compound (0.037 mg, 34%) as a solid. 1H NMR (500 MHz CDCl3): δ 7.54-7.48 (m, 2H), 7.46-7.40 (m, 3H), 7.29 (d, 2H), 6.85 (d, 2H), 5.74 (t, 1H), 4.64 (s, 2H), 3.90 (t, 2H), 3.11-3.00 (m, 2H), 1.87-1.82 (m, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.8, 158.2, 135.3, 133.8, 131.8, 129.8, 128.9, 128.8, 125.3, 114.7, 107.2, 66.1, 65.2, 61.7, 42.5, 28.9, 27.8, Mass Spectrum M+H+ 445.

reactant | 4-(hydroxymethyl)phenol | OCC1=CC=C(C=C1)O | C7H8O2
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | 2-tert-Butyl-4-({3-[4-(hydroxymethyl)phenoxy]propyl}amino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.037 mg, 34% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C=C1)CO)C1=CC=CC=C1)(=O)=O | C23H28N2O5S
